US07932272B2
2-Chloro-quinoline-6-carboxylic acid methyl ester
Phosphorus oxychloride (10 mL) was added to quinoline-6-carboxylic acid methyl ester N-oxide (1.5 g, 7.6 mmol), and the solution was refluxed for 2 hours. The reaction solution was poured onto an ice, and warmed gradually to room temperature. Ethyl acetate was added to the reaction solution, which was then extracted, and sequentially washed with an aqueous solution of saturated sodium bicarbonate and brine. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1), and the title compound (0.47 g, 2.1 mmol, 28%) was obtained as a white solid.

reactant | Phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | quinoline-6-carboxylic acid methyl ester N-oxide | 7.6 mmol, 1.5 g | COC(=O)C=1C=C2C=CC=[N+](C2=CC1)[O-] | C11H9NO3
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-quinoline-6-carboxylic acid methyl ester | 2.1 mmol, 0.47 g, 28% | COC(=O)C=1C=C2C=CC(=NC2=CC1)Cl | C11H8ClNO2
